US07589206B2
(b) 4-Chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine
To a solution of 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid (660 mg) in dimethylformamide (10 ml) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (1.21 g), 1-hydroxybenzotriazole (0.86 g), N-ethylmorpholine (0.8 ml) and morpholine (0.55 ml). The solution was stirred at room temperature overnight. The reaction was diluted with water and extracted three times with ethyl acetate. The ethyl acetate layers were combined, washed with saturated sodium chloride solution and dried (MgSO4) then evaporated to afford the title compound as an off-white solid (783 mg). This was carried through without further purification.

reactant | 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 660 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)O | C9H7ClN2O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 1.21 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.86 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 0.8 ml | C(C)N1CCOCC1 | C6H13NO
reactant | morpholine | 0.55 ml | N1CCOCC1 | C4H9NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine | 783 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C13H14ClN3O2
